US07741327B2
In a round bottom flask was placed 2-[4-(2-chloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-5,5,5-trifluoro-4-trifluoromethyl-pentanoic acid [1-((R)-2,2-dimethyl-[1,3]dioxolan-4-yl-methyl)-1H-pyrazol-3-yl]-amide (32 mg, 0.05 mmol), methanol (2 mL) and p-toluenesulfonic acid hydrate (5 mg, 0.15 mmol) and stirred at 25° C. for 48 h. The mixture was concentrated in vacuo and then taken up in ethyl acetate/methanol and concentrated in vacuo with silica gel (1.5 g). Purification by Biotage flash chromatography (AnaLogix SF15-12 g column, 100% ethyl acetate to 10% methanol/ethyl acetate) afforded 2-[4-(2-chloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-5,5,5-trifluoro-4-trifluoromethyl-pentanoic acid [1-((R)-2,3-dihydroxy-propyl)-1H-pyrazol-3-yl]-amide (25 mg, 84%) as a colorless gum: HR-ES-MS m/z calculated for C22H21N4O5ClF6 [M+H]+ 571.1178, observed 571.1177; 1H NMR (400 MHz, DMSO-d6) δ ppm 2.20-2.37 (m, 1H), 2.38-2.48 (m, 1H), 3.21-3.32 (m, 2H), 3.71-3.82 (m, 1H), 3.82-3.98 (m, 2H), 4.10 (dd, J=13.6, 4.0 Hz, 1H), 4.29 (d, J=17.9 Hz, 1H), 4.45 (d, J=17.9 Hz, 1H), 4.71 (t, J=5.5 Hz, 1H), 4.89 (s, 1H), 4.89-4.98 (m, 2H), 6.43 (d, J=2.1 Hz, 1H), 7.31-7.42 (m, 1H), 7.43-7.53 (m, 3H), 7.56 (d, J=2.1 Hz, 1H), 7.66 (d, J=7.7 Hz, 1H), 10.91 (s, 1H).

reactant | 2-[4-(2-chloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-5,5,5-trifluoro-4-trifluoromethyl-pentanoic acid [1-((R)-2,2-dimethyl-[1,3]dioxolan-4-yl-methyl)-1H-pyrazol-3-yl]-amide | 0.05 mmol, 32 mg | CC1(OC[C@H](O1)CN1N=C(C=C1)NC(C(CC(C(F)(F)F)C(F)(F)F)N1C(C=C(C1)OC1=C(C=CC=C1)Cl)=O)=O)C | C25H25ClF6N4O5
reactant | p-toluenesulfonic acid hydrate | 0.15 mmol, 5 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | methanol | 2 mL | CO | CH4O
product | 2-[4-(2-chloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-5,5,5-trifluoro-4-trifluoromethyl-pentanoic acid [1-((R)-2,3-dihydroxy-propyl)-1H-pyrazol-3-yl]-amide | 25 mg, 84% | O[C@H](CN1N=C(C=C1)NC(C(CC(C(F)(F)F)C(F)(F)F)N1C(C=C(C1)OC1=C(C=CC=C1)Cl)=O)=O)CO | C22H21ClF6N4O5
